US09079866B2
4′-(5-Amino-6-cyanopyrazin-2-yl)-3′-fluoro-N-(2-hydroxyethyl)biphenyl-2-sulfonamide
The title compound was prepared in manner similar to that described in Example 88 using 2-bromo-N-(2-hydroxyethyl)benzenesulfonamide and 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile. MS (ESI): mass calcd. for C19H16FN5O3S, 413.10; m/z found, 414.0 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.81 (d, J=1.8, 1H), 8.17 (dd, J=8.0, 1.4, 1H), 8.02 (m, 1H), 7.64 (m, 1H), 7.56 (m, 1H), 7.40-7.31 (m, 3H), 5.38 (s, 2H), 4.35 (s, 1H), 3.64-3.58 (m, 2H), 2.95-2.87 (m, 2H), 1.64 (t, J=5.2, 1H).

reactant | 2-bromo-N-(2-hydroxyethyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NCCO | C8H10BrNO3S
reactant | 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C17H18BFN4O2
product | 4′-(5-Amino-6-cyanopyrazin-2-yl)-3′-fluoro-N-(2-hydroxyethyl)biphenyl-2-sulfonamide | NC=1N=CC(=NC1C#N)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NCCO)F | C19H16FN5O3S
